US04451555
1-[m-(methylthioacetylamino)-phenyl]-5-tetrazolyl disulphide
A solution of 3.0 g of potassium iodide and 3.2 g of iodine in 50 ml of water and 25 ml of ethanol was added dropwise with stirring and at room temperature to 7 g of 1-[m-(methylthioacetylamino)-phenyl]-5-mercaptotetrazole. The precipitate was purified by recrystallization from methanol.

reactant | potassium iodide | 3.0 g | [I-].[K+]
reactant | iodine | 3.2 g | II | I2
reactant | 1-[m-(methylthioacetylamino)-phenyl]-5-mercaptotetrazole | CCC(=S)NC=1C=C(C=CC1)N1N=NN=C1S | C10H11N5S2
solvent | water | 50 ml | O | H2O
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 1-[m-(methylthioacetylamino)-phenyl]-5-tetrazolyl disulphide | CCC(=S)NC=1C=C(C=CC1)N1N=NN=C1SSC1=NN=NN1C1=CC(=CC=C1)NC(CC)=S | C20H20N10S4
